US09108920B2
Step B: (3S)-2-oxo-1-[4-(trifluoromethyl)phenyl]pyrrolidin-3-yl 4-(trifluoromethyl)benzenesulfonate
To a dichloromethane (10 mL) solution of (3S)-3-hydroxy-1-[4-(trifluoromethyl)phenyl]pyrrolidin-2-one (691 mg, 2.82 mmol), triethylamine (589 μL, 4.23 mmol), and 4-(dimethylamino)pyridine (69 mg, 0.56 mmol) at 0° C. was added a dichloromethane (10 mL) solution of 4-(trifluoromethyl)benzenesulfonyl chloride (827 mg, 3.38 mmol) dropwise. After stirring for 3 hours, the mixture was partitioned between diethyl ether (100 mL) and water (100 mL). The organic layer was washed with brine (2×100 mL), dried (magnesium sulfate) and concentrated to give the title compound, which was subjected to the next step without further purification. 1H NMR (500 MHz, CDCl3) δ 8.19 (d, J=7.9 Hz, 2H), 7.85 (d, J=7.4 Hz, 2H), 7.71 (d, J=8.6 Hz, 2H), 7.62 (d, J=8.7 Hz, 2H), 5.25 (t, J=8.0 Hz, 1H), 3.98-3.93 (m, 1H), 3.85-3.81 (m, 1H), 2.81-2.75 (m, 1H), 2.49-2.43 (m, 1H).

reactant | (3S)-3-hydroxy-1-[4-(trifluoromethyl)phenyl]pyrrolidin-2-one | 2.82 mmol, 691 mg | O[C@@H]1C(N(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C11H10F3NO2
reactant | triethylamine | 4.23 mmol, 589 μL | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 3.38 mmol, 827 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
catalyst | 4-(dimethylamino)pyridine | 0.56 mmol, 69 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3S)-2-oxo-1-[4-(trifluoromethyl)phenyl]pyrrolidin-3-yl 4-(trifluoromethyl)benzenesulfonate | FC(C1=CC=C(C=C1)S(=O)(=O)O[C@@H]1C(N(CC1)C1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C18H13F6NO4S
